*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXA100ARA330ME61G
*//   Date        : 2020/12/24
*//   Update      : 2023/09/19 Change MPN case code
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXA100ARA330ME61G_20deg-C 1 2

C1 4 2 2.39e-05
C2 5 2 6.52e-06
C3 6 2 1.83e-06
R1 3 4 1.44e-02
R2 4 5 2.45e-01
R3 5 6 8.47e+00
L1 1 3 2.20e-09

.ENDS